US07638515B2
Ethyl-4-(4-fluoro-3-methoxyphenyl)-4-methyl-2-oxopentanoate
2.78 g (9.78 mmol) of ethyl-4-(4-fluoro-3-methoxyphenyl)-2-hydroxy-4-methylpentanoate is oxidized in Example 273 with SO3/Py in dichloromethane to the corresponding a ketoester. After chromatography on a Flashmaster, 2.48 g (89.9%) of the desired compound is obtained.

reactant | ethyl-4-(4-fluoro-3-methoxyphenyl)-2-hydroxy-4-methylpentanoate | 9.78 mmol, 2.78 g | C(C)OC(C(CC(C)(C)C1=CC(=C(C=C1)F)OC)O)=O | C15H21FO4
solvent | dichloromethane | ClCCl | CH2Cl2
product | Ethyl-4-(4-fluoro-3-methoxyphenyl)-4-methyl-2-oxopentanoate | 2.48 g, 89.9% | C(C)OC(C(CC(C)(C)C1=CC(=C(C=C1)F)OC)=O)=O | C15H19FO4
